US04588722
A mixture of 0.6 parts of isocyanatomethane, 4.43 parts of N-[1-[2-(4-aminophenyl)ethyl]-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine and 135 parts of tetrahydrofuran was stirred for 3 hours at room temperature. The precipitated product was filtered off and crystallized from acetonitrile, yielding 2 parts (39.9%) of N-[4-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]phenyl]-N'methylurea; mp. +300° C. (compound 57).

reactant | isocyanatomethane | N(=C=O)C | C2H3NO
reactant | N-[1-[2-(4-aminophenyl)ethyl]-4-piperidinyl]-1-(4-fluorophenylmethyl)-1H-benzimidazol-2-amine | NC1=CC=C(C=C1)CCN1CCC(CC1)NC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2 | C27H30FN5
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-[4-[2-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]phenyl]-N'methylurea | 39.9% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2=CC=C(C=C2)NC(=O)NC | C29H33FN6O
